* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1271.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 100µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS340
R1 OUT N002 10.7K
R2 N002 0 1.24K
R3 N003 N004 1K
C1 OUT 0 390µ Rser=.05
C3 N004 0 1µ
V1 IN 0 5
X§U1 N003 N002 0 N001 IN LT1271
Rload OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 15m startup
.lib LT1271.sub
.backanno
.end
